US07435837B2
Treatment of (+)-benzyl {[7-(2,4-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate (1.1 g, 2.78 mmol) with palladium on carbon (0.135 g, 10 wt. %) generally according to the procedure described for Example 1 gave 0.312 g (43%) of (+)-1-[7-(2,4-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. [α]D25=+3.58 (c 10.0 in dimethylsulfoxide); mp 222-224° C.; Anal. calcd. for C15H13F2NOHCl: C, 60.51; H, 4.74; N, 4.7. Found: C, 59.98; H, 4.7; N, 4.64.

reactant | (+)-benzyl {[7-(2,4-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 2.78 mmol, 1.1 g | FC1=C(C=CC(=C1)F)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C23H19F2NO3
catalyst | palladium on carbon | 0.135 g | [Pd] | Pd
product | (+)-1-[7-(2,4-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.312 g, 43% | FC1=C(C=CC(=C1)F)C1=CC=CC=2CC(OC21)CN | C15H13F2NO
